US08124766B2
To a mixture of 4,5-dichloro-1H-indole-2-carboxylic acid ethyl ester (207 mg, 0.80 mmol) in DMF (2 mL) was added drop wise a suspension of NaH (41.2 mg, 60% dispersion in mineral oil, 1.03 mmol) in DMF (5 mL). The reaction mixture was stirred for 30 min, then ethyl iodide (156 mg, 1.0 mmol) diluted in 1 mL of DMF was added drop wise at room temperature and the mixture was stirred for an additional 1 hr. The reaction mixture was diluted with 100 mL of EtOAc and washed with saturated ammonium chloride (100 mL) and brine (50 mL). The organic layer was dried over anhydrous sodium sulfate and the solvent was removed. The residue was purified on a flash chromatography column with EtOAc/hexanes to afford 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid ethyl ester (160 mg, 70% yield). The 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid ethyl ester (160 mg, 0.56 mmol) was diluted in 10 mL of methanol and 4 mL of 1N NaOH and placed in a sealed tube. The reaction mixture was heated under microwave condition at 120° C. for 25 min. The reaction mixture was diluted with 150 mL of EtOAc and washed with 100 mL of 1N HCl, brine (50 L) and dried. The solvent was removed to afford the product 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid (120 mg, 84% yield) as a white solid. LCMS for C11H9Cl2NO2 calcd. (m/e) 257, observed 256 (M−H).

reactant | 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid ethyl ester | 0.56 mmol, 160 mg | C(C)OC(=O)C=1N(C2=CC=C(C(=C2C1)Cl)Cl)CC | C13H13Cl2NO2
reactant | NaOH | 1N, 4 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid | 120 mg, 84% yield | ClC1=C2C=C(N(C2=CC=C1Cl)CC)C(=O)O | C11H9Cl2NO2
